US07507736B2
4-{5-[1-(2,2,2-Trifluoro-ethyl)-piperidin-4-yloxy]-1H-indole-2-carbonyl}-piperazine-1-carboxylic acid methyl ester
The title compound was prepared in analogy to example 40b), from 5-[1-(2,2,2-trifluoro-ethyl)-piperidin-4-yloxy]-1H-indole-2-carboxylic acid and methyl piperazine-1-carboxylate. Light yellow solid. MS (m/z): 469.3 (M+H)+.

reactant | 5-[1-(2,2,2-trifluoro-ethyl)-piperidin-4-yloxy]-1H-indole-2-carboxylic acid | FC(CN1CCC(CC1)OC=1C=C2C=C(NC2=CC1)C(=O)O)(F)F | C16H17F3N2O3
reactant | methyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC | C6H12N2O2
product | 4-{5-[1-(2,2,2-Trifluoro-ethyl)-piperidin-4-yloxy]-1H-indole-2-carbonyl}-piperazine-1-carboxylic acid methyl ester | COC(=O)N1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)OC1CCN(CC1)CC(F)(F)F | C22H27F3N4O4
